US06809199B2
Step C: 5-(2-Chlorophenyl)-7-{[1-(1-cyclopropylethyl)piperidin-4-yl]oxy}-1-(2,6-dichlorophenyl)quinolin-2(1H)-one
To a solution of 8.8 mg of 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-(piperidin-4-yloxy)quinolin-2(1H)-one in 0.9 mL of MeOH was added 0.1 mL of 1-cyclopropylethanone, then 6.5 mg of sodium cyanoborohydride. The mixture was stirred 4 d at rt. Another 0.5 mL of 1-cyclopropylethanone was added and the mixture was heated to reflux overnight, then concentrated and purified by preparative thin-layer chromatography, eluting with 95:5 CH2Cl2-2M NH3 in MeOH to yield the title compound. Mass spectrum (ESI) 567 (M+1).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-(piperidin-4-yloxy)quinolin-2(1H)-one | 8.8 mg | ClC1=C(C=CC=C1)C1=C2C=CC(N(C2=CC(=C1)OC1CCNCC1)C1=C(C=CC=C1Cl)Cl)=O | C26H21Cl3N2O2
reactant | 1-cyclopropylethanone | 0.1 mL | C1(CC1)C(C)=O | C5H8O
reactant | sodium cyanoborohydride | 6.5 mg | C(#N)[BH3-].[Na+]
reactant | 1-cyclopropylethanone | 0.5 mL | C1(CC1)C(C)=O | C5H8O
solvent | MeOH | 0.9 mL | CO | CH4O
product | 5-(2-Chlorophenyl)-7-{[1-(1-cyclopropylethyl)piperidin-4-yl]oxy}-1-(2,6-dichlorophenyl)quinolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2C=CC(N(C2=CC(=C1)OC1CCN(CC1)C(C)C1CC1)C1=C(C=CC=C1Cl)Cl)=O | C31H29Cl3N2O2
